US07148230B2
2-[4-{4-[3-chloro-2-fluoroanilino]-7-methoxyquinazolin-6-yloxy}piperidin-1-yl]-2-oxoethyl Dihydrogen Phosphate
4M Hydrogen chloride in 1,4 dioxane (1.95 ml) was added to a stirred solution of di-tert-butyl 2-[4-(4-[3-chloro-2-fluoroanilino]-7-methoxyquinazolin-6-yloxy)piperidin-1-yl]-2-oxoethyl phosphate (0.951 g) in 1,4-dioxane (16 ml). The mixture was stirred overnight and diethyl ether (50 ml) was then added. The resulting precipitate was collected by filtration and dried to give the title product as a white solid (0.77 g); NMR Spectrum: (DMSO d6) 1.60–1.76 (m, 2H), 2.11 (m, 2H), 3.38 (m, 2H), 3.69 (m, 1H), 3.91 (m, 1H), 4.02 (s, 3H), 4.53 (m, 2H), 5.02 (m, 1H), 7.37 (m, 2H), 7.55 (m, 1H), 7.65 (m, 1H), 8.53 (s, 1H), 8.81 (s, 1H), 11.86 (br s, 1H); Mass Spectrum: (M+H)+ 541.

reactant | Hydrogen chloride | 4M | Cl | ClH
reactant | di-tert-butyl 2-[4-(4-[3-chloro-2-fluoroanilino]-7-methoxyquinazolin-6-yloxy)piperidin-1-yl]-2-oxoethyl phosphate | 0.951 g | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCC(=O)N1CCC(CC1)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C30H39ClFN4O7P
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | 1,4 dioxane | 1.95 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 16 ml | O1CCOCC1 | C4H8O2
product | 2-[4-{4-[3-chloro-2-fluoroanilino]-7-methoxyquinazolin-6-yloxy}piperidin-1-yl]-2-oxoethyl Dihydrogen Phosphate | 0.77 g | P(=O)(OCC(=O)N1CCC(CC1)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F)(O)O | C22H23ClFN4O7P
